US08283354B2
To a solution of (R)-1-(4-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4-methylpentan-1-one (285 mg, 0.65 mmol) in CH2Cl2 (2 mL) under an N2 atmosphere was added ether (10 mL), followed by the dropwise addition of a 2 M HCl solution in ether (0.325 mL, 0.65 mmol). A precipitate was formed which was stirred for 30 min, collected by vacuum filtration, and dried to afford (R)-1-(4-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4-methylpentan-1-one hydrochloride (284 mg, 92%). LC/MS: m/z 439.30 (M+H)+ at 3.00 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)): 1H NMR (400 MHz, DMSO-d6) δ 8.32 (dd, J=8.1, 1.5 Hz, 1H), 8.02 (m, 1H), 7.92 (dd, J=9.7, 2.7 Hz, 1H), 7.85 (m, 1H), 7.45 (m, 1H), 7.01 (m, 2H), 4.37 (dd, J=9.2, 4.1 Hz, 1H), 4.04 (m, 4H), 3.83 (m, 4H), 1.76 (m, 1H), 1.41 (m, 2H), 0.90 (dd, J=6.6, 3.7 Hz, 6H).

reactant | (R)-1-(4-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4-methylpentan-1-one | 0.65 mmol, 285 mg | FC=1C=C2C(=NC(=NC2=CC1)C1=C(C=CC=C1)O)N1CCN(CC1)C([C@@H](CC(C)C)O)=O | C24H27FN4O3
reactant | ether | 10 mL | CCOCC | C4H10O
reactant | HCl | 2 M | Cl | ClH
reactant | ether | 0.65 mmol, 0.325 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(4-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)piperazin-1-yl)-2-hydroxy-4-methylpentan-1-one hydrochloride | 284 mg, 92% | Cl.FC=1C=C2C(=NC(=NC2=CC1)C1=C(C=CC=C1)O)N1CCN(CC1)C([C@@H](CC(C)C)O)=O | InChI=1S/C24H27FN4O3.ClH/c1-15(2)13-21(31)24(32)29-11-9-28(10-12-29)23-18-14-16(25)7-8-19(18)26-22(27-23)17-5-3-4-6-20(17)30;/h3-8,14-15,21,30-31H,9-13H2,1-2H3;1H/t21-;/m1./s1
